US05342850
5-(4-(p-Toluenesulfonylamino)phenyl)thiazolidine-2,4-dione
Into 10 ml of pyridine were dissolved 0.50 g of 5-(4-amino-phenyl) thiazolidine-2,4-dione, and after added 0.46 g of p-toluenesulfonyl chloride, the mixture was stirred for 1 hour at room temperature. After the completion of reaction, the reaction mixture was poured into ice water, which was extracted with ethyl acetate. The organic layer was washed with 10% hydrochloric acid, washed with water and dried. Then, solvent was distilled off. The residue was recrystallized from benzene to obtain 0.65 g of title compound.

reactant | 5-(4-amino-phenyl) thiazolidine-2,4-dione | 0.50 g | NC1=CC=C(C=C1)C1C(NC(S1)=O)=O | C9H8N2O2S
reactant | p-toluenesulfonyl chloride | 0.46 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-(p-Toluenesulfonylamino)phenyl)thiazolidine-2,4-dione | 0.65 g | C1(=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C1C(NC(S1)=O)=O)C | C16H14N2O4S2
